US07977352B2
Using the method described above for the synthesis of racemic-4-(trans-2,4,5-Trimethyl-piperazin-1-yl)-phenylamine, treatment of cis-4-(2-fluoro-4-nitrophenyl)-1,2,6-trimethylpiperazine (1.39 g, 5.20 mmol) with H2 and 10% Pd/C (120 mg) provided crude 3-fluoro-4-(cis-3,4,5-trimethyl-piperazin-1-yl)-phenylamine (1.04 g, 84% recovery, 96% purity as determined by LC/MS analysis @ UV 254 nm detection,). The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C13H20FN3, 237; [M+H]+ found, 238.

reactant | racemic-4-(trans-2,4,5-Trimethyl-piperazin-1-yl)-phenylamine | C[C@@H]1N(C[C@H](N(C1)C)C)C1=CC=C(C=C1)N | C13H21N3
reactant | cis-4-(2-fluoro-4-nitrophenyl)-1,2,6-trimethylpiperazine | 5.20 mmol, 1.39 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C[C@@H](N([C@@H](C1)C)C)C | C13H18FN3O2
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | 3-fluoro-4-(cis-3,4,5-trimethyl-piperazin-1-yl)-phenylamine | 1.04 g | FC=1C=C(C=CC1N1C[C@H](N([C@H](C1)C)C)C)N | C13H20FN3
